US06576656B1
(8) 4-Trifluoromethyl-6-iodo-3-hydroxy-3-(2-naphthyl)oxindole
The title compound (35.8 mg, 6.5%) was prepared from 4-trifluoromethyl-6-iodoisatin (400 mg, 1.17 mmol) and 2-naphthyl magnesium bromide by the procedure similar to that described in Example 1.

reactant | 4-trifluoromethyl-6-iodoisatin | 1.17 mmol, 400 mg | FC(C1=C2C(C(NC2=CC(=C1)I)=O)=O)(F)F | C9H3F3INO2
reactant | 2-naphthyl magnesium bromide | C1=C(C=CC2=CC=CC=C12)[Mg]Br
product | 4-Trifluoromethyl-6-iodo-3-hydroxy-3-(2-naphthyl)oxindole | 35.8 mg, 6.5% | FC(C1=C2C(C(NC2=CC(=C1)I)=O)(C1=CC2=CC=CC=C2C=C1)O)(F)F | C19H11F3INO2
